### ISSUE TITLE
[TODO] Section 401: Complete coverage proof with stable tactics

### ISSUE THREAD

**Issue by kavanaghpatrick** [kavanaghpatrick/us-tax-code-lean#54]
## Context

During Phase 1 bug fixes (PR #34), we removed the unstable `grind` tactic and replaced it with `sorry` to achieve build stability. The proof now needs to be completed using stable Mathlib tactics.

## Location

**File**: `src/TaxCode/Section401.lean`  
**Line**: 222  
**Theorem**: `coverage_passed_if_all_benefit`

## Current State

```lean
theorem coverage_passed_if_all_benefit (all_employees : List Employee)
  (h_non_empty : all_employees.length > 0) :
  check_coverage_410 all_employees all_employees = true := by
    unfold check_coverage_410
    simp only []
    sorry  -- TODO: Complete proof with omega and list membership tactics
```

## What Needs to Be Done

1. **Arithmetic reasoning**: Use `omega` to prove the percentage calculations
2. **List reasoning**: Prove that when participants = all_employees, the counts match
3. **Boolean logic**: Show that `test_a || test_b = true` when conditions hold

## Suggested Approach

- Use `omega` for arithmetic inequalities
- Use list tactics for membership checks
- May need `decide` for boolean evaluation

## Related

- Original issue: #34
- Commit: b5603c5

## Priority

**LOW** - Build is stable, logic is correct, only formal proof is missing
